US08445505B2
A mixture of 4-bromonaphthalen-1-amine (1.0 g, 4.5 mmol), tert-butyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate (1.7 g, 5.4 mmol), Pd(PPh3)4 (26.01 mg, 0.02 mmol) and Na2CO3 (3.34 g, 31.5 mmol) in 10 mL of DMF and 5 mL of water was degassed and purged with nitrogen. The reaction was heated at 100° C. for 5 h, and cooled to room temperature. The reaction mixture was partitioned between EtOAc and water. The combined organic extracts were dried (Na2SO4), concentrated in vacuo and purified by silica gel chromatography (MeOH/DCM: 5/95) to afford tert-butyl-4-(4-aminonaphthalen-1-yl)-5,6-dihydropyridine-1(2H)-carboxylate.

reactant | 4-bromonaphthalen-1-amine | 4.5 mmol, 1.0 g | BrC1=CC=C(C2=CC=CC=C12)N | C10H8BrN
reactant | tert-butyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 5.4 mmol, 1.7 g | C(C)(C)(C)OC(=O)N1CC=C(CC1)B1OC(C(O1)(C)C)(C)C | C16H28BNO4
reactant | Na2CO3 | 31.5 mmol, 3.34 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 5 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.02 mmol, 26.01 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl-4-(4-aminonaphthalen-1-yl)-5,6-dihydropyridine-1(2H)-carboxylate | C(C)(C)(C)OC(=O)N1CC=C(CC1)C1=CC=C(C2=CC=CC=C12)N | C20H24N2O2
